US07902373B2
Step B: 6-(2-Fluorophenyl)nicotinic acid
To tert-butyl 6-(2-fluorophenyl)nicotinate (479 mg, 1.75 mmol) in DCM (12 mL) at 0° C. was added TFA (2.5 mL). After stirring at rt overnight, toluene was added (10 mL) and the solvent removed to give a white solid (375 mg, 98%), 6-(2-fluorophenyl)nicotinic acid. LC/MS (M+H)=218.0 observed, 218.06 expected.

reactant | tert-butyl 6-(2-fluorophenyl)nicotinate | 1.75 mmol, 479 mg | FC1=C(C=CC=C1)C1=NC=C(C(=O)OC(C)(C)C)C=C1 | C16H16FNO2
reactant | TFA | 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
product | 6-(2-Fluorophenyl)nicotinic acid | 375 mg, 98% | FC1=C(C=CC=C1)C1=NC=C(C(=O)O)C=C1 | C12H8FNO2
